US05302748
A dispersion of 16.9 G (0.4 mole) of 56% by weight sodium hydride in mineral oil is slurried with n-pentane under nitrogen, the supernatant liquid is removed by suction with a sintered glass tip tube. This process is repeated three times before 500 ml of dry tetrahydrofuran and 75.8 G (0.48 mole) of methyl isooctanoate are added. The resultant mixture is heated to reflux temperature with agitation. A total of 48 G (0.4 mole) of acetophenone is added to the above refluxing mixture over a 3 hour period of time. The system is maintained at reflux temperature for an additional one half hour after the acetophenone addition is completed. Approximately 20 ml of methanol is added to the above mixture at room temperature to destroy any unreacted sodium hydride. The reaction mixture is then poured into a vigorously stirred mixture of 75 ml of concentrated hydrochloric acid and 250 G of ice. When most of the ice has melted the solution is extracted twice with 242 ml of heptane per extraction. The combined heptane extracts are successively washed with water, 10% sodium carbonate solution and again with water. The heptane solution is dried with sodium sulfate, filtered, the volatiles removed at reduced pressure and the residue distilled to yield 1-phenylisodecane-1,3-dione.

reactant | sodium hydride | [H-].[Na+]
reactant | n-pentane | CCCCC | C5H12
reactant | methyl isooctanoate | 0.48 mole | C(CCCCC(C)C)(=O)OC | C9H18O2
reactant | acetophenone | 0.4 mole | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-phenylisodecane-1,3-dione | C1(=CC=CC=C1)C(CC(CCCCC(C)C)=O)=O | C16H22O2
